US05643923
3-(3-Quinuclidinyloxy)isoxazole
A solution of 9.18 g of triphenylphosphine in 100 ml of tetrahydrofuran was cooled to 5° C. 6.10 g of diethyl azodicarboxylate were then added dropwise to the cooled solution, after which 2.98 g of 3-hydroxyisoxazole and 4.45 g of 3-hydroxyquinuclidine were added, and the resulting mixture was stirred at room temperature for 24 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using ethyl acetate as the eluent, to afford 5.18 g (yield 76.2%) of the title compound as a colorless powder, melting at 80°-81° C.

reactant | triphenylphosphine | 9.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.10 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-hydroxyisoxazole | 2.98 g | OC1=NOC=C1 | C3H3NO2
reactant | 3-hydroxyquinuclidine | 4.45 g | OC1CN2CCC1CC2 | C7H13NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(3-Quinuclidinyloxy)isoxazole | 5.18 g, yield 76.2% | N12CC(C(CC1)CC2)OC2=NOC=C2 | C10H14N2O2
